US05891909
c) 3-[5-Methyl-3-(2-methyl-5-nitrophenylsulfonyloxy)phenoxy]propionaldehyde
Sulfur trioxide pyridine complex (960 mg, 6.0 mmol) was added to a solution of 3-[5-methyl-3-(2-methyl-5-nitrophenylsulfonyloxy)phenoxy]propanol (760 mg, 2.0 mmol), as prepared in the preceding step, N,N-diisopropylethylamine (0.7 mL, 5.5 mmol) and anhydrous dimethyl sulfoxide (0.4 mL, 5.6 mmol) in anhydrous dichloromethane (20 mL). The reaction mixture was stirred at ambient temperature for 1 hour and then quenched with 10% aqueous citric acid (70 mL). The mixture was extracted into dichloromethane (3×50 mL), and the dichloromethane solution was washed with 10% aqueous citric acid (40 mL) and dried over Na2SO4. After removing the solvent in vacuo, the residue was purified by flash column chromatography (dichloromethane) to give the title compound as a colorless oil (590 mg, 78%). 1H-NMR (300 MHz, CDCl3) δ 9.83 (s, 1H), 8.72 (s, 1H), 8.38 (d, J=8.4 Hz, 1H), 7.63 (d, J=8.4 Hz, 1H), 6.63 (s, 1H), 6.46 (s, 1H), 6.39 (s, 1H), 4.21 (t, J=6.0 Hz, 2H), 2.89 (s, 3H), 2.87 (t, J=6.0 Hz, 2H), 2.26 (s, 3H).

reactant | 3-[5-methyl-3-(2-methyl-5-nitrophenylsulfonyloxy)phenoxy]propanol | 2.0 mmol, 760 mg | CC=1C=C(C=C(OCCCO)C1)OS(=O)(=O)C1=C(C=CC(=C1)[N+](=O)[O-])C | C17H19NO7S
reactant | N,N-diisopropylethylamine | 5.5 mmol, 0.7 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | dimethyl sulfoxide | 5.6 mmol, 0.4 mL | CS(=O)C | C2H6OS
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 3-[5-Methyl-3-(2-methyl-5-nitrophenylsulfonyloxy)phenoxy]propionaldehyde | 590 mg, 78% | CC=1C=C(C=C(OCCC=O)C1)OS(=O)(=O)C1=C(C=CC(=C1)[N+](=O)[O-])C | C17H17NO7S
